US05331006
The Schiffs' base (1.34 g, 7.0 mmol), derived from alanine methyl ester andbenzaldehyde was dissolved in THF (25 mL), and cooled to -76° C. To this was added a solution of LDA (11.6 mL of 10% in n-hexane) in THF (15 mL). After stirring for 30 minutes this solution was treated with 3-(methylsulfonylmethyl)-9-methylsulfonyl-β-carboline (25 Ml in THF) from Step 2, warmed to room temperature and stirred over night. The brown suspension was evaporated in vacuum, the residue dissolved in ethyl acetate and the solution was washed with water, combined with 100 mL 1N HCl and was stirred for 1 hour at room temperature. The organic layer was separated and the aqueous solution was treated with Na2CO3 to pH 8-9. This was extracted with ethyl acetate (2×100 mL), dried overNa2SO4 and the organic solvent was evaporated in vacuum. The residue was flash chromatographed on silica gel using 5% methanol/methylene chloride to yield 2-[9-(methylsulfonyl)-β-carbolin-3-yl]-alanine methyl ester (0.53 g, 21.2%) as a yellow oil.

reactant | alanine methyl ester | COC([C@@H](N)C)=O | C4H9NO2
reactant | LDA | 11.6 mL | [Li+].CC(C)[N-]C(C)C
reactant | 3-(methylsulfonylmethyl)-9-methylsulfonyl-β-carboline | CS(=O)(=O)CC=1N=CC=2N(C3=CC=CC=C3C2C1)S(=O)(=O)C | C14H14N2O4S2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-[9-(methylsulfonyl)-β-carbolin-3-yl]-alanine methyl ester | 0.53 g, 21.2% | COC([C@@](N)(C)C=1N=CC=2N(C3=CC=CC=C3C2C1)S(=O)(=O)C)=O | C16H17N3O4S
